US05620997
8-Mercapto-[1,3]dioxolo[4,5 g]quinoline-7-carboxylic acid (2-pyridin-2-yl-ethyl)-amide
To 10.4 g (0.025 mol) of 8-chloro-[1,3]dioxolo [4,5-g]quinoline-7-carboxylic acid (2-pyridin-2yl-ethyl)-amide in 100 mL of ethanol was added 7.2 g (0.1 mol) of sodium hydrogensulfide and the mixture was heated at reflux for 3 hours. The mixture was cooled and the solids filtered, washed with ethanol, and then with water. The filtrate was concentrated and the solids were suspended in water, collected by filtration, and recrystallized from ethanol to give 6.8 g of the title compound, mp 258°-260° C.

reactant | 8-chloro-[1,3]dioxolo [4,5-g]quinoline-7-carboxylic acid (2-pyridin-2yl-ethyl)-amide | 0.025 mol, 10.4 g | N1=C(C=CC=C1)CCNC(=O)C=1C=NC=2C=C3C(=CC2C1Cl)OCO3 | C18H14ClN3O3
reactant | sodium hydrogensulfide | 0.1 mol, 7.2 g | S.[Na]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 8-Mercapto-[1,3]dioxolo[4,5 g]quinoline-7-carboxylic acid (2-pyridin-2-yl-ethyl)-amide | 6.8 g | N1=C(C=CC=C1)CCNC(=O)C=1C=NC=2C=C3C(=CC2C1S)OCO3 | C18H15N3O3S
